### ISSUE TITLE
a case where omega used to work in 4.7.0 and doesn't work in 4.8.0-rc1

### ISSUE THREAD

**Issue by hwatheod** [leanprover/lean4#4054]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description
```
example (x: Nat):
    x < 2 →
    (0 = 0 → 0 = 0 → 0 = 0 → 0 = 0 → x < 2) ∧
    (0 = 0 → 0 = 0 → 0 = 0 → 0 = 0 → x < 2 → x < 3)
:= by omega
```
Lean 4.8.0-rc1 is unable to solve this, but lean 4.7.0 can.
But if you delete any one of the clauses other than initial `x < 2` (which would make the result false), then Lean 4.8.0-rc1 can solve it. 
Just the presence of the extraneous `0 = 0` seems to cause a problem.
Changing any of the `0 = 0` to any other arbitrary statement seems to still exhibit the same issue.

Of course, this is not my original code. It's a far simplified version which still causes the same problem.

### Steps to Reproduce

1. Install both lean 4.7.0 and 4.8.0-rc1
2. Under Lean 4.7.0, omega successfully proves the lemma.
3. Under 4.8.0-rc1, 
```
error: omega could not prove the goal:
a possible counterexample may satisfy the constraints
  0 ≤ a ≤ 1
where
 a := ↑x
```

**Expected behavior:** omega is able to prove the goal

**Actual behavior:** omega gives the error shown above

### Versions

4.7.0 (works), 4.8.0-rc1 (fails)
MacOS 12.7.4

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by hwatheod** [comment]
If you simplify the problem a bit, then `omega` can solve it in 4.8.0-rc1
```
:= by
  intro foo
  simp [foo]
  omega
```

**Comment by hwatheod** [comment]
I edited to simplify the example a lot from the original.

**Comment by hwatheod** [comment]
I added `set_option trace.omega true`.

In Lean 4.7.0, it starts with
```
[omega] analyzing 3 hypotheses:
    [Nat, x < 2, ¬((0 = 0 → 0 = 0 → 0 = 0 → 0 = 0 → x < 2) ∧ (0 = 0 → 0 = 0 → 0 = 0 → 0 = 0 → x < 2 → x < 3))]
```
but in Lean 4.8.0-rc1, it starts with
[omega] analyzing 2 hypotheses:
    [Nat, x < 2]
```

But when I remove one of the `0 = 0` then Lean 4.8.0-rc1 also shows "analyzing 3 hypotheses".  
In 4.8.0-rc1, is `omega` is ignoring a hypothesis if it exceeds some complexity?

**Comment by hwatheod** [comment]
If I make either of these changes then it works:

Add `open Classical` to the top of the file

Add the tactic `false_or_by_contra` before `omega`

**Comment by hwatheod** [comment]
I believe I've narrowed down the problem:

```
example: (0 = 0 → 0 = 0 → 0 = 0 → 0 = 0 → x < 2) ∧
    (0 = 0 → 0 = 0 → 0 = 0 → 0 = 0 → x < 2 → x < 3) := by
  apply Decidable.byContradiction  -- Failed to synthesize Decidable


example: (0 = 0 → 0 = 0 → 0 = 0 → 0 = 0 → x < 2) ∧
    (0 = 0 → 0 = 0 → 0 = 0 → x < 2 → x < 3) := by
  apply Decidable.byContradiction  -- works ok
```

**Comment by hwatheod** [comment]
So, it seems that the `Failed to synthesize Decidable` is caused by a limit in `synthInstance.maxSize`. By doing `set_option synthInstance.maxSize 256` then the original `omega` works.

**Comment by semorrison** [comment]
Closed by #4703.
